US08134007B2
[5-chloro-2-(trifluoromethoxy)phenyl]boronic acid
To a solution of the 4-chloro(trifluoromethoxy)benzene (2.0 g, 10.18 mmol) in dry tetrahydrofuran (THF, 30 ml) at −78° C., was added ethylenediaminetetraacetic acid (EDTA, 1.24 g, 10.7 mmol) followed by a 1.3 M solution of sec-butyllithium in cyclohexane (7.63 ml, 10.7 mmol) and the reaction stirred for 2 hours under nitrogen. To this reaction mixture at −78° C., was then added dropwise the preformed dimethoxyfluoroborane mixture. The reaction was stirred at −78° C. for 30 minutes, warmed to room temperature for 30 minutes, and then quenched with water (10 ml). The reaction mixture was extracted with diethyl ether (4×50 ml). The combined organic extracts were dried over MgSO4 and concentrated in vacuo. To purify, the residue was dissolved in diethyl ether (10 ml) and washed with an aqueous solution of 10% NaOH (50 ml). The aqueous layer was acidified and extracted with ethyl acetate (3×40 ml). The combined ethyl acetate extracts were dried over MgSO4 and concentrated in vacuo to afford a mixture of the title compound and its corresponding regioisomer as a white solid (0.862 g).

reactant | 4-chloro(trifluoromethoxy)benzene | 10.18 mmol, 2.0 g | ClC1=CC=C(C=C1)OC(F)(F)F | C7H4ClF3O
reactant | ethylenediaminetetraacetic acid | 10.7 mmol, 1.24 g | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | sec-butyllithium | C(C)(CC)[Li]
reactant | cyclohexane | 10.7 mmol, 7.63 ml | C1CCCCC1 | C6H12
reactant | dimethoxyfluoroborane | COB(F)OC | C2H6BFO2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | [5-chloro-2-(trifluoromethoxy)phenyl]boronic acid | ClC=1C=CC(=C(C1)B(O)O)OC(F)(F)F | C7H5BClF3O3
